US07576212B2
4-Chloro-3-phenyl-thieno[2,3-b]pyridine (47 mg, 0.19 mmol) and 2-aminomethyl pyridine (0.5 ml, 4.85 mmol) were placed in a 10 ml glass tube. The vessel was sealed with a septum and placed in the microwave cavity. Using microwave irradiation the temperature was ramped from room temperature to 150° C. Once 150° C. was reached, the reaction mixture was held at this temperature for 90 minutes. After cooling to room temperature, the temperature was ramped to 200° C. and held at this temperature for 30 min. After cooling, the reaction mixture was diluted with DCM and washed with water. The organic phase was dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by preparative HPLC to give (3-phenyl-thieno[2,3-b]pyridin-4-yl)-pyridin-2-ylmethyl-amine. Yield=14 mg, 23%.

reactant | 4-Chloro-3-phenyl-thieno[2,3-b]pyridine | 0.19 mmol, 47 mg | ClC1=C2C(=NC=C1)SC=C2C2=CC=CC=C2 | C13H8ClNS
reactant | 2-aminomethyl pyridine | 4.85 mmol, 0.5 ml | NCC1=NC=CC=C1 | C6H8N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (3-phenyl-thieno[2,3-b]pyridin-4-yl)-pyridin-2-ylmethyl-amine | C1(=CC=CC=C1)C1=CSC2=NC=CC(=C21)NCC2=NC=CC=C2 | C19H15N3S
